US04745200
40.7 g (308 mmoles) of a glycerin ketal mixture containing 97.5% by weight of 2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane and 12.2 g (305 mmoles) of sodium hydroxide were dissolved in 366 ml of water. After transferring the mixture to a nickel shaker-type autoclave, the solution was heated to about 80° C. under a pressure of 25 bar in the presence of 4 g of an activated carbon containing 5% by weight of palladium with agitation for about 2 hours. The pressure in the autoclave rose briefly to 30 bar, subsequently fell back to 25 bar and, after another hour, increased to 63 bar. After 2 hours, the pressure remained constant at 53 bar. The autoclave was then vented. The pH of the solution was adjusted, the water in the solution was distilled off, and the remaining residue was hot extracted in the same manner as described in Example 2. The 2,2-dimethyl-1,3-dioxolane-4-carboxylic acid, Na salt was isolated in a yield of 86% of the theoretical. The melting point of the salt was 243°-246° C.

reactant | 2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydroxide | 305 mmoles, 12.2 g | [OH-].[Na+]
solvent | water | 366 ml | O | H2O
catalyst | nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
product | 2,2-dimethyl-1,3-dioxolane-4-carboxylic acid | yield of 86% | CC1(OCC(O1)C(=O)O)C | C6H10O4
